US06090813
1-(Benzyl)-4-(4-chloropyrimidin-6-yl)piperazine (58.0 g; 0.20 mol) was dissolved, with some heating, in methanol (700 ml), treated with 10% Pd on activated carbon (11.6 g) and agitated and hydrogenated at s.t.p. for 8 h. After this period the catalyst was removed by filtering through celite. The filtrate thus obtained was then evaporated under reduced pressure to a yellow-brown viscous gum which was chromatographed through 60 μm silica gel, eluting with 5% methanol, 1% ammonium hydroxide and 94% CH2Cl2 to obtain as white solid, 25 g (76% yield based on prehydrogenation substrate) of 4-(4-pyrimidinyl)piperazine;

reactant | 1-(Benzyl)-4-(4-chloropyrimidin-6-yl)piperazine | 0.20 mol, 58.0 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC(=NC=N1)Cl | C15H17ClN4
solvent | methanol | 700 ml | CO | CH4O
catalyst | Pd on activated carbon | 11.6 g | [Pd] | Pd
product | 4-(4-pyrimidinyl)piperazine | 25 g, 76% yield | N1=CN=C(C=C1)N1CCNCC1 | C8H12N4
